US07772244B2
(R)-3-(7-Methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carbonyloxy)propanoic acid
To a solution of (R)-1-methoxy-3-(7-methyl-1H-indazol-5-yl)-1-oxopropan-2-yl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate (1.20 g, 2.46 mmol) in methanol (10 mL) and tetrahydrofuran (10 mL) at 0° C. was added a precooled solution of lithium hydroxide monohydrate (309 mg, 3.0 equiv) in water (10 mL). After 2 h, the reaction was concentrated under high vaccuum (<25° C.). The resulting residue was dissolved in water (20 mL), cooled to 0° C., and acidified to ca. pH 2 with 1 N hydrochloric acid. The suspension was maintained at 0° C. for 1 h, filtered, and the solid washed with cold water. The resulting white solid was air dried and then dried under high vacuum overnight to give 1.04 g (89%) as a white solid. Mass spec.: 475.30 (MH)+.

reactant | (R)-1-methoxy-3-(7-methyl-1H-indazol-5-yl)-1-oxopropan-2-yl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | 2.46 mmol, 1.20 g | O=C1NC2=CC=CC=C2C=C1C1CCN(CC1)C(=O)O[C@@H](C(=O)OC)CC=1C=C2C=NNC2=C(C1)C | C27H28N4O5
reactant | lithium hydroxide monohydrate | 309 mg, 3.0 equiv | O.[OH-].[Li+]
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | (R)-3-(7-Methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carbonyloxy)propanoic acid | CC=1C=C(C=C2C=NNC12)C[C@H](C(=O)O)OC(=O)N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C26H26N4O5
